US07989461B2
Preparation of 5-bromo-1H-pyrazolo[3,4-b]pyridine
A mixture of 5-bromo-2-fluoronicotinaldehyde (0.580 g, 2.8 mmol), 4-methylbenzenesulfonic acid (0.060 g, 0.35 mmol) and anhydrous hydrazine (0.450 ml, 14 mmol) in 5 mL of i-PrOH was heated at 145° C. for 15 min in the microwave (Initiator by Biotage). The reaction was diluted with H2O and the solid was filtered washed with H2O and air-dried to give a white amorphous solid. MS (M+H)+ 198, 200.

reactant | 5-bromo-2-fluoronicotinaldehyde | 2.8 mmol, 0.580 g | BrC=1C=NC(=C(C=O)C1)F | C6H3BrFNO
reactant | 4-methylbenzenesulfonic acid | 0.35 mmol, 0.060 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | hydrazine | 14 mmol, 0.450 ml | NN | H4N2
solvent | i-PrOH | 5 mL | CC(C)O | C3H8O
solvent | H2O | O | H2O
product | 5-bromo-1H-pyrazolo[3,4-b]pyridine | BrC=1C=C2C(=NC1)NN=C2 | C6H4BrN3
